US05808062
2-[[4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy]methyl]-benzoic acid methyl ester:
The title compound was prepared by Method A using 2-[[(4-acetyl)phenoxy]methyl]benzoic acid methyl ester (2.0 g, 7.04 mmol), trimethylsilyltrifluoromethylsulfonate (1.57 g, 7.04 mmol), triethylamine (1.42 g, 14.08 mmol) and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.04 g, 3.52 mmol). m.p. 161°-162° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.78 (t, 2 H), 2.97 (t, 2 H), 3.81 (s, 3 H), 5.5 (s, 2 H), 6.69 (s, 1 H), 7.14 (m, 3 H), 7.25 (m, 4 H), 7.5 (m, 2 H), 7.78 (m, 2 H), 7.78 (d, 2 H), 7.94 (d, 1 H); IR (KBr) 3028, 2949, 2909, 2675, 1715, 1638, 1510, 1402, 1291, 1267, 1181, 1030, 828, 747 cm-1 ; MS (CI) m/e 489 (M+H, 51), 384 (3), 353 (1), 149 (100), 135 (47), 105 (33).

reactant | 2-[[(4-acetyl)phenoxy]methyl]benzoic acid methyl ester | 7.04 mmol, 2.0 g | COC(C1=C(C=CC=C1)COC1=CC=C(C=C1)C(C)=O)=O | C17H16O4
reactant | trimethylsilyltrifluoromethylsulfonate | 7.04 mmol, 1.57 g | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | triethylamine | 14.08 mmol, 1.42 g | C(C)N(CC)CC | C6H15N
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.52 mmol, 1.04 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
reactant | KBr | [K+].[Br-]
product | 2-[[4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy]methyl]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)COC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O)=O | C28H24O6S
